US04579848
3-Cyano-N,N-dimethylbenzamide
A mixture of 85.22 g of m-cyanobenzoic acid, 400 ml of toluene, 4.48 ml (4.23 g) of N,N-dimethylformamide and 44.4 ml (72.3 g) of thionyl chloride was gently heated on a steam bath for 2 hours with sulfur dioxide and hydrogen chloride being evolved. The reaction solution was cooled in an ice bath and cautiously added portionwise, over one hour, to stirred and cooled solution of 250 ml of 40% aqueous diethylamine and 100 ml of water. At intervals 2-3 ml of concentrated aqueous potassium hydroxide was added. After the addition was complete, the mixture was stirred for several hours, then the layers were separated and the organic layer washed with water. After permitting the organic layer to evaporate to dryness, the residue was recrystallized from 300 ml of ethanol containing charcoal, giving 68.5 g of the desired compound as white crystals, mp 85°-88° C.

reactant | m-cyanobenzoic acid | 85.22 g | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | thionyl chloride | 44.4 ml, 72.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydrogen chloride | Cl | ClH
reactant | diethylamine | 250 ml | C(C)NCC | C4H11N
reactant | potassium hydroxide | 2-3 ml | [OH-].[K+]
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 4.48 ml, 4.23 g | CN(C=O)C | C3H7NO
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Cyano-N,N-dimethylbenzamide | 68.5 g | C(#N)C=1C=C(C(=O)N(C)C)C=CC1 | C10H10N2O
